US05744488
t-Butyl 1-(2-methoxycarbonylethyl)-3-(3-pyridylmethyl)-1H-indole-4-propanoate
Treatment of t-butyl (E)-3-[1-(2-methoxycarbonylethyl)-3-(3-pyridylmethyl)-1H-indole-4-yl]-2-propenoate (5.15 g) with 10% palladium on carbon (0.50 g) and ammonium formate (7.71 g) according to the method of Preparation 23 gave the title compound, (4.67 g) m.p. 80°-82° C. Found: C,71.43; H,7.06; N,6.35. C25H30N2O4 requires: C,71.06; H,7.16; N,6.63%.

reactant | t-butyl (E)-3-[1-(2-methoxycarbonylethyl)-3-(3-pyridylmethyl)-1H-indole-4-yl]-2-propenoate | 5.15 g | COC(=O)CCN1C=C(C2=C(C=CC=C12)/C=C/C(=O)OC(C)(C)C)CC=1C=NC=CC1 | C25H28N2O4
reactant | ammonium formate | 7.71 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 0.50 g | [Pd] | Pd
product | t-Butyl 1-(2-methoxycarbonylethyl)-3-(3-pyridylmethyl)-1H-indole-4-propanoate | 4.67 g | COC(=O)CCN1C=C(C=2C(=CC=CC12)CCC(=O)OC(C)(C)C)CC=1C=NC=CC1 | C25H30N2O4
